US07960563B2
1-(3-Chloro-4-hydroxyphenyl)-1H-indazol-4-ol (E17)
1-[3-Chloro-4-(methyloxy)phenyl]-4-[(phenylmethyl)oxy]-1H-indazole (D33) (460 mg, 1.26 mmol) was dissolved in dry DCM (15 mL) and degassed by sonication under a flow of argon. The solution was cooled to −78° C. and after 10 mins treated with BBr3 (1M in DCM, 2.52 mL, 2.52 mmol) dropwise and when the addition was complete the bath was removed and it was allowed to reach room temperature still stirring under argon. After 17 hours the mixture was partitioned between DCM (50 mL)/water (50 mL), the pH adjusted to 7 by addition of a solution of NaHCO3 and the layers separated. The aqueous phase was extracted with DCM (2×50 mL) twice and the combined organics were washed with brine (50 mL), separated and dried over MgSO4. The crude material was purified by MDAP to afford 34 mg of the title compound (E17).

reactant | 1-[3-Chloro-4-(methyloxy)phenyl]-4-[(phenylmethyl)oxy]-1H-indazole | 1.26 mmol, 460 mg | ClC=1C=C(C=CC1OC)N1N=CC2=C(C=CC=C12)OCC1=CC=CC=C1 | C21H17ClN2O2
reactant | BBr3 | 2.52 mmol, 1M, 2.52 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Chloro-4-hydroxyphenyl)-1H-indazol-4-ol | 34 mg | ClC=1C=C(C=CC1O)N1N=CC=2C(=CC=CC12)O | C13H9ClN2O2
